US07737166B2
4-Cyano-N-[2-(dimethylamino)-2-oxoethyl]-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-125)
Under nitrogen atmosphere, trimethylaluminium (1.03 M n-hexane solution, 1.19 ml, 1.23 mmol) was dropwise added at room temperature to a dichloromethane (2 ml) solution of N,N-dimethyl-2-methylaminoacetamide (143 mg, 1.23 mmol), and stirred for 35 minutes. Subsequently, a dichloromethane (2 ml) solution of ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate (I-111) (200 mg, 617 μmol) was dropwise added and stirred for 66.5 hours. After the reaction, aqueous 1 N hydrochloric acid solution was added to the reaction liquid with cooling with ice, followed by stirring at room temperature, and the reaction liquid was extracted with chloroform. Next, the obtained organic layers were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, and the eluate with ethyl acetate gave the entitled compound (144 mg, 59%) as an amorphous substance.

reactant | trimethylaluminium | 1.23 mmol, 1.03 M, 1.19 ml | C[Al](C)C
reactant | N,N-dimethyl-2-methylaminoacetamide | 1.23 mmol, 143 mg | CN(C(CNC)=O)C | C5H12N2O
reactant | ethyl 4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-2-carboxylate | 617 μmol, 200 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)OCC)F)C2=CC=CC=C2)C | C18H13FN2O3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-Cyano-N-[2-(dimethylamino)-2-oxoethyl]-7-fluoro-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 144 mg, 59% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CC(=O)N(C)C)F)C2=CC=CC=C2)C | C21H19FN4O3
